US04259338
250.3 g (1.0 mol) of ethyl 4-(1-methyl-2-oxopropoxy)-3-methylbenzoate are stirred in 400 ml of 94% sulfuric acid, first at room temperature for 30 minutes and then at 60° for 30 minutes. The reaction mixture is cooled to room temperature, poured onto 2 kg of ice and extracted with ethyl acetate. The organic phase is washed twice with water and then extracted 3 times with 500 ml of 2 N sodium carbonate solution each time. The sodium carbonate solutions are rendered acid (pH about 2-3) with 5 N hydrochloric acid and then extracted with ethyl acetate. The organic phase is dried over magnesium sulfate and evaporated completely under a waterpump vacuum. 2,3,7-Trimethyl-5-benzofurancarboxylic acid of melting point 235°-237° is obtained from the residue by recrystallising it once from hot ethanol.

reactant | ethyl 4-(1-methyl-2-oxopropoxy)-3-methylbenzoate | 1.0 mol, 250.3 g | CC(C(C)=O)OC1=C(C=C(C(=O)OCC)C=C1)C | C14H18O4
solvent | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3,7-Trimethyl-5-benzofurancarboxylic acid | CC=1OC2=C(C1C)C=C(C=C2C)C(=O)O | C12H12O3
